US07320972B2
5-(4-Fluorophenyl)-5-oxopentanoic acid (10.08 g, 47.9 mmol) and triethylamine (6.8 mL, 4.94 g, 48.8 mmol) were dissolved in tetrahydrofuran (50 mL). The reaction was cooled to −5° C. (ice/brine bath), trimethylacetyl chloride (6.0 mL, 5.87 g, 48.7 mmol) was added quickly drop-wise and the mixture was warmed to room temperature and stirred for 1.5 h. The reaction was cooled to −5° C. (ice/brine bath) again for 30 min, filtered through Celite®, washed with cold 1:1 hexane-tetrahydrofuran (60 mL) and hexane (120 mL). The filtrate was concentrated, dissolved in N,N-dimethylformamide (16 mL) and to this mixture was added (S)-benzyl-2-oxazolidinone (8.47 g, 47.8 mmol) and 4-dimethylaminopyridine (8.57 g, 70.2 mmol) as solids. The reaction was stirred at room temperature for 20 h, poured into 1.0 N hydrochloric acid (400 mL) and extracted with ethyl acetate (2×300 mL). The organic layer was washed with water (400 mL), quarter saturated sodium bicarbonate solution (400 mL), brine (200 mL), dried over sodium sulfate, filtered, and concentrated. The residue was purified by crystallization from hot isopropyl alcohol (75 mL) with slow cooling to room temperature over 16 h. The crystals were filtered cold and washed with cold isopropyl alcohol (50 mL) to afford (4S)-4-benzyl-3-[5-(4-fluorophenyl)-5-oxopentanoyl]-1,3-oxazolidin-2-one (13.87 g, 78% yield) as a white crystalline solid; mp 114.5° C.; Rf 0.29 (1:2 ethyl acetate-hexane); 1H NMR (300 MHz, CDCl3) δ 8.03-7.98 (m, 2H), 7.37-7.19 (m, 5H), 7.14 (t, J=8.7 Hz, 2H), 4.72-4.64 (m, 1H), 4.25-4.15 (m, 2H), 3.32 (dd, J=13.3, 3.4 Hz, 1H), 3.12-3.01 (m, 4H), 2.78 (dd, J=13.3, 9.6 Hz, 1H), 2.15 (quint., J=7.2 Hz, 2H) ppm.

reactant | 5-(4-Fluorophenyl)-5-oxopentanoic acid | 47.9 mmol, 10.08 g | FC1=CC=C(C=C1)C(CCCC(=O)O)=O | C11H11FO3
reactant | triethylamine | 48.8 mmol, 6.8 mL, 4.94 g | C(C)N(CC)CC | C6H15N
reactant | trimethylacetyl chloride | 48.7 mmol, 6.0 mL, 5.87 g | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | (S)-benzyl-2-oxazolidinone | 47.8 mmol, 8.47 g | C1COC(=O)N1CC2=CC=CC=C2 | C10H11NO2
reactant | hydrochloric acid | 1.0 N, 400 mL | Cl | ClH
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 70.2 mmol, 8.57 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (4S)-4-benzyl-3-[5-(4-fluorophenyl)-5-oxopentanoyl]-1,3-oxazolidin-2-one | 13.87 g, 78% yield | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CCCC(=O)C1=CC=C(C=C1)F)=O | C21H20FNO4
